US07674809B2
21b) 2-phenyl-5-nitrobenzimidazole
Prepared from 4-nitrophenylenediamine and benzoic acid in a manner similar to that of Example 9b. Yield: 70%; Rf (9/1 chloroform/methanol): 0.45; IR (KBr): 3290, 1500, 1330, 1290 cm−1.

reactant | 4-nitrophenylenediamine | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | KBr | [K+].[Br-]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-phenyl-5-nitrobenzimidazole | Yield: 70% | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C13H9N3O2
